US06720320B2
2-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,3,4-thiadiazole
To a solution (50 ml) of N′-(4-methoxybenzo(b)furan-2-ylthiocarbonyl)acetohydrazide (1.1 g) in toluene was added methanesulfonic acid (1.0 ml) and the mixture was stirred at 80° C. for 30 min. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate and aqueous potassium carbonate solution, followed by partitioning. After washing with water, the organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to give the title compound (0.82 g) as yellow crystals.

reactant | N′-(4-methoxybenzo(b)furan-2-ylthiocarbonyl)acetohydrazide | 50 ml, 1.1 g | COC1=CC=CC=2OC(=CC21)C(=S)NNC(C)=O | C12H12N2O3S
reactant | methanesulfonic acid | 1.0 ml | CS(=O)(=O)O | CH4O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,3,4-thiadiazole | 0.82 g | COC1=CC=CC=2OC(=CC21)C=2SC(=NN2)C | C12H10N2O2S
